US04470421
Preparation Of Ethyl 2-(2-Butyl)malonyl Chloride
To dry ethyl ether (55.0 ml) under nitrogen was added ethyl 2-(2-butyl)malonic acid (55.0 g, 0.29 mole). Thionyl chloride (32.0 ml, 52.5 g, 0.44 mole) was added dropwise with stirring. The solution was heated to 50° C. for 2 hours under nitrogen, at which time no further HCl was evolved.

reactant | ethyl 2-(2-butyl)malonic acid | 0.29 mole, 55.0 g | C(C)C(C(=O)O)(C(=O)O)C(C)CC | C9H16O4
reactant | Thionyl chloride | 0.44 mole, 32.0 ml, 52.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
solvent | ethyl ether | 55.0 ml | C(C)OCC | C4H10O
product | Ethyl 2-(2-Butyl)malonyl Chloride | C(C)C(C(=O)Cl)(C(=O)Cl)C(C)CC | C9H14Cl2O2
